US09102664B2
Preparation of 1-((2S,3S)-2-(benzyloxy)pentan-3-yl)-4-(4-(4-(4-hydroxyphenyl)piperazin-1-yl)phenyl)-1H-1,2,4-triazol-5(4H)-one (Formula-20)
A mixture of N′-((2S,3S)-2-(benzyloxy)pentan-3-yl)formohydrazide compound of formula-17 (45.5 g) obtained in example-13, dioxane (500 ml) added phenyl 4-(4-(4-hydroxyphenyl)piperazin-1-yl)phenylcarbamate compound of formula-19 (50 g) was heated to 90-100° C. Triethylamine (26 g) was added to the reaction mixture at 90-100° C. over a period of 1 hour and stirred for 24 hours at 90-100° C. After completion of the reaction, the reaction mixture was cooled to 25-30° C. and dichloromethane was added to the reaction mixture. Filtered the reaction mixture through hyflow bed and washed with dichloromethane. Water was added to the filtrate. Both organic and aqueous layers were separated and the aqueous layer was extracted with dichloromethane. Both organic layers were combined and washed with 2% sodium hydroxide solution followed by water, and then with 5% hydrochloric acid solution followed by water and 5% NaHCO3 solution washing. Distilled off the solvent from organic layer under reduced pressure to get the title compound. Isopropyl alcohol (75 ml) was added to the obtained compound and the reaction mixture was cooled to 25-30° C. The reaction mixture was stirred for 6 hours at 25-30° C. Filtered the solid, washed with isopropyl alcohol and then dried to get the title compound. Yield: 28 g; Purity by HPLC: 97.67%; Impurity-A: 0.37%

reactant | N′-((2S,3S)-2-(benzyloxy)pentan-3-yl)formohydrazide | C(C1=CC=CC=C1)O[C@@H](C)[C@H](CC)NNC=O | C13H20N2O2
reactant | dioxane | 500 ml | O1CCOCC1 | C4H8O2
reactant | phenyl 4-(4-(4-hydroxyphenyl)piperazin-1-yl)phenylcarbamate | OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C23H23N3O3
reactant | Triethylamine | 26 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-((2S,3S)-2-(benzyloxy)pentan-3-yl)-4-(4-(4-(4-hydroxyphenyl)piperazin-1-yl)phenyl)-1H-1,2,4-triazol-5(4H)-one | C(C1=CC=CC=C1)O[C@@H](C)[C@H](CC)N1N=CN(C1=O)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)O | C30H35N5O3
